US07157487B2
(Step 2) Synthesis of benzyl 5-fluoro-3-methoxy-2-nitrophenyl ether
In DMF (20 ml), 5-fluoro-3-methoxy-2-nitrophenol (4.14 g, 22.1 mmol), benzyl bromide (3.2 ml, 26.5 mmol) and potassium carbonate (4.58 g, 33.2 mmol) were stirred at 70° C. for 5 hours. The reaction mixture was poured in water (200 ml), followed by extraction with ethyl acetate (300 ml). The extract was washed with saturated brine (200 ml), dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (4:1) eluate fractions, the title compound (6.13 g, 100%) was obtained as a yellow oil.

reactant | 5-fluoro-3-methoxy-2-nitrophenol | 22.1 mmol, 4.14 g | FC=1C=C(C(=C(C1)O)[N+](=O)[O-])OC | C7H6FNO4
reactant | benzyl bromide | 26.5 mmol, 3.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 33.2 mmol, 4.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | benzyl 5-fluoro-3-methoxy-2-nitrophenyl ether | 6.13 g, 100% | FC=1C=C(C(=C(C1)OCC1=CC=CC=C1)[N+](=O)[O-])OC | C14H12FNO4
